US04380465
Preparation of 3-chloro-5-(m-trifluoromethylphenyl)-4-isothiazolecarboxylic acid
To a solution of 50.0 g (0.287 mole) of m-trifluoromethylbenzaldehyde, 25.0 g (0.378 mole) of malononitrile, and 500 ml of n-butanol was added 15 drops of piperidine. The mixture was stirred for 16 hours, and the white precipitate was collected and washed with ethanol to give 34 g (53%) of white prisms, mp 82°-83°. Concentration of the mother liquid down to 100 ml and cooling gave an additional 3 g of prisms, mp 82°-85°. This material (3 g) was recrystallized from ethanol to give an additional 2.0 g of m-trifluoromethylbenzylidinemalononitrile, mp 82°-83°. A mixture of 30.8 g (0.139 ml) of m-trifluoromethylbenzylidinemalononitrile, 46.92 g (0.348 mole) of S2Cl2, and 1.66 g (0.021 mole) of pyridine was stirred at 140° to 150° for 5 hours and poured onto 500 ml of ice water. The precipitate was collected and dissolved in hot ethanol (500 ml). The insoluble sulfur was removed by filtration, and the filtrant was concentrated to 300 ml and cooled to room temperature. The product obtained as yellow needles (35 g, mp 102.5°-105°) was 3-chloro-5-(m-trifluoromethylphenyl)-4-isothiazolecarbonitrile. The yellow needles were recrystallized from ethanol to give 30.8 g (77%), mp 103.5°-105°, of yellow needles. A portion of the needles was recrystallized again, mp 103.5°-105°. However, recrystallization of the carbonitrile from hexane gave 25 g of material with mp 105°-106°. The mixture of 6.4 g (0.0222 mole) of 3-chloro-5-(m-trifluoromethylphenyl)-4-isothiazolecarbonitrile in 30 ml of concentrated sulfuric acid was heated in a steam bath for 45 minutes and poured into 300 ml of ice water. The yellow precipitate was filtered and dissolved in a mixture of 30 ml of methanol and 200 ml of ether. The solution was extracted with 10% sodium hydroxide solution (50 ml), dried (MgSO4) and concentrated under reduced pressure, and the residual solid was crystallized from methanol-water to give 5.25 g (77%) of 3-chloro-5-(m-trifluoromethylphenyl)-4-isothiazolecarboxamide as yellow needles, mp 143°-147°. A portion of this material (0.5 g) was further recrystallized from methanol-water to give mp 145°-146°. To a cold (5°) solution of 1.0 g (3.26 mole) of 3-chloro-5-(m-trifluoromethylphenyl)-4-isothiazolecarboxamide in 20 ml of concentrated sulfuric acid was added a solution of 2.0 g (14.5 mole) of sodium nitrite in 5 ml of water dropwise to maintain a temperature below 30°. After complete addition of the sodium nitrite solution the reaction mixture was stirred at room temperature for 1 hour and then in a steam bath for 30 minutes and hydrolyzed with 200 ml of water. The precipitate was extracted with 50 ml of ether (2 times). The ether solution was extracted twice with 50 ml of 10% sodium hydroxide solution. The basic extracts were made acidic with 30 ml of concentrated HCl, and the resulting precipitate was filtered to give 0.2 g (20%) of the desired acid mp 159°-161°. Further recrystallization from ethanol-water gave mp 159°-161°.

reactant | 3-chloro-5-(m-trifluoromethylphenyl)-4-isothiazolecarboxamide | 3.26 mole, 1.0 g | ClC1=NSC(=C1C(=O)N)C1=CC(=CC=C1)C(F)(F)F | C11H6ClF3N2OS
reactant | sodium nitrite | 14.5 mole, 2.0 g | N(=O)[O-].[Na+]
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 5 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 3-chloro-5-(m-trifluoromethylphenyl)-4-isothiazolecarboxylic acid | ClC1=NSC(=C1C(=O)O)C1=CC(=CC=C1)C(F)(F)F | C11H5ClF3NO2S
